US07932271B2
2-Chloro-5-[(3-chloropyridin-4-yl)(2,5-difluorophenyl)methylthio]pyridine
To a dichloromethane (3 ml) solution of the 3-chloro-4-[(2,5-difluorophenyl)-hydroxymethyl]pyridine (153 mg, 0.60 mmol) obtained in Referential Example 23 were added triethylamine (0.167 ml, 1.20 mmol) and methanesulfonyl chloride (0.070 ml, 0.90 mmol) sequentially at 0° C. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was then dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. To an N,N-dimethylformamide (3 ml) solution of the residue thus obtained was added an N,N-dimethylformamide (2 ml) solution of 6-chloro-3-pyridinethiol and potassium carbonate (100 mg, 0.72 mmol) sequentially. The resulting mixture was stirred at room temperature for 18 hours. Ethyl acetate was added to the reaction mixture. The resulting mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel chromatography. The fraction obtained from the hexane:ethyl acetate=17:3 eluate was concentrated under reduced pressure to give the title compound (111 mg, 0.29 mmol, 48%) as a white solid.

reactant | 3-chloro-4-[(2,5-difluorophenyl)-hydroxymethyl]pyridine | 0.60 mmol, 153 mg | ClC=1C=NC=CC1C(O)C1=C(C=CC(=C1)F)F | C12H8ClF2NO
reactant | triethylamine | 1.20 mmol, 0.167 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.90 mmol, 0.070 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-chloro-3-pyridinethiol | ClC1=CC=C(C=N1)S | C5H4ClNS
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | hexane | CCCCCC | C6H14
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-Chloro-5-[(3-chloropyridin-4-yl)(2,5-difluorophenyl)methylthio]pyridine | 0.29 mmol, 111 mg, 48% | ClC1=NC=C(C=C1)SC(C1=C(C=CC(=C1)F)F)C1=C(C=NC=C1)Cl | C17H10Cl2F2N2S
